US05606051
(3S, 4R)-4-[(1-ethyl-5-methylpyrazol-3-yl)carbonylmethyl]-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one
3-Acetyl-1-ethyl-5-methylpyrazole (3.51 g) in dry tetrahydrofuran (THF) (150 ml) under an argon atmosphere was cooled in an acetone/solid carbon dioxide bath and then treated with a 1M solution of lithium bis(trimethylsilyl)amide (50 ml). The mixture was stirred for 45 minutes and then (3R,4R)-4-acetoxy-3-[(1R)-1-tert-butyldimethylsilyloxyethyl]azetidinone (6.6 g) was added as a solid under a blanket of argon. The mixture was stirred in the cold for 3.5 h. Saturated aqueous ammonium chloride was then added, followed by ethyl acetate, and the mixture was allowed to warm to room temperature. A little water was added and the layers were separated and the aqueous layer was re-extracted with ethyl acetate. The combined ethyl acetate extracts were washed with saturated brine, dried and evaporated. Chromatography on silica gel, eluting with ethyl acetate/hexane mixtures gave the title compound (3.65 g), νmax (CH2Cl2) 3411, 1761, 1678, 1376, 1151, and 838 cm-1 ; δ(CDCl3) 0.064 (6H, s), 0.86 (9H, s), 1.20 (3H,d, J 6.3 Hz), 1.44 (3H, t, J 7.3 Hz) 2.31 (3H, s), 2.89 (1H, dd, J 1.8 & 4.9 Hz), 3.15 (1H, dd, J 10.0 & 17.1 Hz), 3.50 (1H, dd, J 3.5 & 17.0 Hz), 4.06-4.25 (4H, m), 6.11 (1H, s), 6.53 (1H, s). (Found m/z 379.2296. C19H33N3O3Si requires m/z 379.2291).

reactant | 3-Acetyl-1-ethyl-5-methylpyrazole | 3.51 g | C(C)(=O)C1=NN(C(=C1)C)CC | C8H12N2O
reactant | lithium bis(trimethylsilyl)amide | 50 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (3R,4R)-4-acetoxy-3-[(1R)-1-tert-butyldimethylsilyloxyethyl]azetidinone | 6.6 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S, 4R)-4-[(1-ethyl-5-methylpyrazol-3-yl)carbonylmethyl]-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one | 3.65 g | C(C)N1N=C(C=C1C)C(=O)C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C19H33N3O3Si
